US08471005B2
1-(2-Fluoro-4-nitro-phenyl)-piperazine (0.500 g, 0.00222 mol) was dissolved in Methanol (11.0 mL, 0.272 mol) and the reaction mixture was placed in a sealed tube. (S)-(−)-Propylene Oxide (0.235 mL, 0.00335 mol) was then added at room temperature and the reaction was stirred for 19 hours. The reaction was concentrated to yield a yellow solid, (S)-1-[4-(2-Fluoro-4-nitro-phenyl)-piperazin-1-yl]-propan-2-ol (583 mg, 93%). LCMS: m/z=284.10 (M+H+); 1H NMR (400 MHz, DMSO-d6) δ 8.00 (d, 2H, J=11.3 Hz), 7.16 (m, 1H), 4.36 (d, 1H, J=4.0 Hz), 3.80 (m, 1H), 3.28 (m, 4H), 2.57 (m, 4H), 2.26 (m, 2H), 1.06 (d, 3H, J=6.2 Hz).

reactant | 1-(2-Fluoro-4-nitro-phenyl)-piperazine | 0.00222 mol, 0.500 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1CCNCC1 | C10H12FN3O2
reactant | Methanol | 0.272 mol, 11.0 mL | CO | CH4O
reactant | (S)-(−)-Propylene Oxide | 0.00335 mol, 0.235 mL | C1[C@H](C)O1 | C3H6O
product | (S)-1-[4-(2-Fluoro-4-nitro-phenyl)-piperazin-1-yl]-propan-2-ol | 583 mg, 93% | FC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C[C@H](C)O | C13H18FN3O3
